US08445674B2
D) (S)-1-[(S)-2-Hydroxy-4-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-4-oxo-butyl]-3-methyl-piperazin-2-one
In analogy to intermediate 12E, (S)-4-[(S)-2-hydroxy-4-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-4-oxo-butyl]-2-methyl-3-oxo-piperazine-1-carboxylic acid benzyl ester was hydrogenated without aqueous HCl to give the titled compound in 64% yield as off-white waxy solid. MS: 326.21 (MH+).

reactant | (S)-4-[(S)-2-hydroxy-4-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-4-oxo-butyl]-2-methyl-3-oxo-piperazine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(N(CC1)C[C@H](CC(=O)N1C[C@H](C2(CC2)CC1)O)O)=O)C | C24H33N3O6
reactant | HCl | Cl | ClH
product | (S)-1-[(S)-2-Hydroxy-4-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-4-oxo-butyl]-3-methyl-piperazin-2-one | 64% yield | O[C@H](CN1C([C@@H](NCC1)C)=O)CC(=O)N1C[C@H](C2(CC2)CC1)O | C16H27N3O4
